US05726186
6a,11a-Dihydro-9-methoxy-6-H-[1]benzothieno[3,2-c][1]benzopyran-6-one
To a stirred solution of 6-methoxythianaphthen-2-one (52.6 g, 290 mmol) in a mixture of ethanol (260 mL) and methylene chloride (130 mL) was added triethylamine (2.0 mL, 14.8 mmol) followed by salicylaldehyde (32 mL, 300 mmol) at room temperature. After 1 h, a solid began to precipitate and stirring was continued for 3.5 h. The mixture was then diluted with cold hexane and filtered to yield 68.3 g (83%) of the title product as a powdery white solid, pure by 1H-NMR analysis: 1H NMR (300 MHz, CDCl3) δ7.45 (d, J=7.5 Hz, 1H), 7.33 (m, 2H), 7.17 (m, 1H), 7.07 (d, J=8.1 Hz, 1H), 6.77 (d, J=2.4 Hz, 1H), 6.69 (dd, J=2.4, 8.5 Hz, 1H), 5.25 (d, J=7.4 Hz, 1H), 4.37 (d, J=7.3 Hz, 1H), 3.77 (s, 3H); 13C NMR (75 MHz, CDCl3) δ166.4, 160.7, 150.8, 141.4, 130.1, 129.0, 127.7, 127.0, 124.9, 119.5, 117.2, 111.2, 108.3, 55.5, 50.6, 49.6; IR (CHCl3) 1766 cm-1 ; MS (FD) m/e 284 (M+); Anal. calc'd. for C16H12O3S: C, 67.59; H, 4.26. Found: C, 67.77; H, 4.24.

reactant | 6-methoxythianaphthen-2-one | 290 mmol, 52.6 g | COC1=CC2=C(CC(=O)S2)C=C1 | C9H8O2S
reactant | salicylaldehyde | 300 mmol, 32 mL | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | ethanol | 260 mL | C(C)O | C2H6O
solvent | methylene chloride | 130 mL | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 14.8 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
product | 6a,11a-Dihydro-9-methoxy-6-H-[1]benzothieno[3,2-c][1]benzopyran-6-one | 68.3 g, 83% | COC1=CC2=C(C=C1)C1C(OC3=C(C1S2)C=CC=C3)=O | C16H12O3S
